US07319110B2
Part B: To a stirred solution of 1-(chlorophenyl)-5-(2,4-dichlorophenyl)-1H-1,2,4-triazole-3-carboxylic acid (0.37 g, 1.00 mmol) in dichloromethane (10 mL) is added oxalyl chloride (0.254 g, 2.00 mmol). The resulting mixture is concentrated in vacuo to give crude 1-(chlorophenyl)-5-(2,4-dichlorophenyl)-1H-1,2,4-triazole-3-carbonyl chloride.

reactant | 1-(chlorophenyl)-5-(2,4-dichlorophenyl)-1H-1,2,4-triazole-3-carboxylic acid | 1.00 mmol, 0.37 g | ClC1=C(C=CC=C1)N1N=C(N=C1C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C15H8Cl3N3O2
reactant | oxalyl chloride | 2.00 mmol, 0.254 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(chlorophenyl)-5-(2,4-dichlorophenyl)-1H-1,2,4-triazole-3-carbonyl chloride | ClC1=C(C=CC=C1)N1N=C(N=C1C1=C(C=C(C=C1)Cl)Cl)C(=O)Cl | C15H7Cl4N3O
